### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction): `typeToCat` is right adjoint to `connectedComponents` functor

### PR DESCRIPTION
**Pull request by nrolland**
The embedding of `Type` into `Cat`, which views a set as a discrete category, is right adjoint to the functor `connectedComponents : Cat -> Set` which maps a category to its set of connected components.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dagurtomas** [comment]
Without having looked closely at your PR, I would guess it's better to build on the existing API for [CategoryTheory.ConnectedComponents](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/ConnectedComponents.html) instead

**Comment by nrolland** [comment]
oh yes !! I did not see this. closing this one for now then

**Comment by nrolland** [comment]
I rewired this to use  `CategoryTheory.ConnectedComponents` and its `Zigzag`.

There is much about `Zigzag` already in the file `IsConnected.lean` and this add a bit more about them in another file.
I wonder if this is not wise to make a `zigzag.lean` from `IsConnected.lean` or put my stuff in the latter.

**Comment by dagurtomas** [comment]
Feel free to remove the `awaiting-author` label when the PR is ready for review. 

A few remarks:
- I feel like there are too many auxiliary definitions. In `Relation.lean`, you could remove `toCC`, `cc_eq_of_hom`, `ccfmap` and `liftedMk`. Then the definition of the connected components functor could look like this:
```lean
/-- The connected components functor -/
def connectedComponents.{v,u} : Cat.{v, u} ⥤ Type u where
  obj C := ConnectedComponents C
  map F :=
    Quotient.lift (Quotient.mk zigzagSetoidC ∘ F.obj)
      (fun _ _ ↦ Quot.sound ∘ zigzag_obj_of_zigzag F)
  map_id _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h ↦ by simp [← h]; rfl)
  map_comp _ _ := funext (fun x ↦ (Quotient.exists_rep x).elim (fun _ h => by simp [← h]))
``` 

- You should read the [mathlib naming conventions](https://leanprover-community.github.io/contribute/naming.html). For instance, only lemmas (i.e. terms of type `Prop`) have underscores in their names; `def`s use camel case. Your names should also be more descriptive, for instance `cc` could mean a lot of things, `fnToFctr` is a bit hard to read

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 1]
```diff
@@ -51,4 +49,49 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+  obj :=  Discrete.mk ∘ fct ∘ toCC
+  map :=  Discrete.eqToHom ∘ congrArg fct ∘ cc_eq_of_hom
+
+private def fctrToFn {X} {C : Cat} (fctr :C ⥤ typeToCat.obj X)  : (connectedComponents.obj C ⟶ X) :=
+  Quotient.lift (s:= Zigzag.setoid C)
+    (fun c => (fctr.obj c).as)
+    (fun _ _ h => eq_of_zigzag X (transportZigzag fctr h))
+
+/-- `typeToCat : Type ⥤ Cat` is right adjoint to `connectedComponents : Cat ⥤ Type` -/
+def isadj_CC_TypeToCat : connectedComponents ⊣ typeToCat where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:62]: This does not follow the naming conventions

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 2]
```diff
@@ -51,4 +49,49 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+  unit := { app:= fun C  ↦ fnToFctr (𝟙 _) }
+  counit :=  {
+      app := fun X => fctrToFn (𝟙 typeToCat.obj X)
+      naturality := fun _ _ _ =>
+        funext (fun xcc => by
+          obtain ⟨x,h⟩ := Quotient.exists_rep xcc
+          aesop_cat)
+   }
+  homEquiv_unit := fun {C X h} => Functor.hext (fun _ => by rfl) (fun _ _ _ => by rfl)
+  homEquiv_counit := fun {C X G} => by funext cc;obtain ⟨_,_⟩ := Quotient.exists_rep cc; aesop_cat
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:94]:
```suggestion
  homEquiv C X := {
    toFun := fnToFctr
    invFun := fctrToFn
    left_inv := fun _ ↦ funext fun x ↦ by
      obtain ⟨x, h⟩ := Quotient.exists_rep x
      rw [← h]
      rfl
    right_inv  := fun fctr ↦
      Functor.hext (fun _ ↦ rfl) (fun c d f ↦
        have : Subsingleton (fctr.obj c ⟶ fctr.obj d) := Discrete.instSubsingletonDiscreteHom _ _
        (Subsingleton.elim (fctr.map f) _).symm.heq) }
  unit := { app:= fun C ↦ fnToFctr (𝟙 _) }
  counit :=  {
      app := fun X ↦ fctrToFn (𝟙 typeToCat.obj X)
      naturality := fun _ _ _ ↦ funext fun x ↦ by
        obtain ⟨x, h⟩ := Quotient.exists_rep x
        aesop_cat }
  homEquiv_unit := fun {C X h} ↦ Functor.hext (fun _ ↦ by rfl) (fun _ _ _ ↦ by rfl)
  homEquiv_counit := fun {C X G} ↦ by funext cc;obtain ⟨_,_⟩ := Quotient.exists_rep cc; aesop_cat
```

File: Mathlib/CategoryTheory/Category/Cat/Relation.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+
+namespace CategoryTheory.Cat
+
+variable {C D : Cat}
+variable {a b : C}
+variable (F : C ⥤ D)
+
+open Relation
+
+private abbrev zigzagSetoidC : Setoid C := Zigzag.setoid C
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Relation.lean:38]: This can be replaced by `Zigzag.setoid C` everywhere it appears in the code, except in the definition of `ccfmap` where it causes an error in the line below. I'm not sure why.

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean (hunk 2 above)
Comment (nrolland) [reply Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:94]: `have : Subsingleton (fctr.obj c ⟶ fctr.obj d) := Discrete.instSubsingletonDiscreteHom _ _`

this is much nicer..

Comment (nrolland) [reply Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:94]: I didn't know you could do

```lean
 (Subsingleton.elim (fctr.map f) _).symm.heq
```

instead of 

```lean
(this.elim (fctr.map f) _).symm.heq)
```

**Comment by nrolland** [comment]
it's all in one file now

File: Mathlib/CategoryTheory/IsConnected.lean [hunk 4]
```diff
@@ -331,6 +331,14 @@ theorem zigzag_obj_of_zigzag (F : J ⥤ K) {j₁ j₂ : J} (h : Zigzag j₁ j₂
     Zigzag (F.obj j₁) (F.obj j₂) :=
   h.lift _ fun _ _ => Or.imp (Nonempty.map fun f => F.map f) (Nonempty.map fun f => F.map f)
 
+/-- A zigzag in a discrete category entails an equality of its extremities -/
+lemma eq_of_zigzag (X) {a b : Discrete X} (zab : Relation.ReflTransGen Zag a b) : a.as = b.as := by
+  induction zab with
+  | refl => rfl
+  | @tail b c _ zbc eqab  =>
+    exact eqab.trans ( zbc.elim (Nonempty.elim · Discrete.eq_of_hom)
+      (Eq.symm ∘ (Nonempty.elim · Discrete.eq_of_hom)))
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/IsConnected.lean:340]:
```suggestion
lemma eq_of_zigzag (X) {a b : Discrete X} (h : Zigzag a b) : a.as = b.as := by
  induction h with
  | refl => rfl
  | tail _ h eq  =>
    exact eq.trans (h.elim (fun ⟨f⟩ ↦ Discrete.eq_of_hom f) 
      (fun ⟨f⟩ ↦ (Discrete.eq_of_hom f).symm))
```

I always try to make variable names consistent throughout the file. I changed the proof in the `tail` case slightly, to me this is more readable. Maybe it's worth proving a lemma `eq_of_zag` as well, and apply that in the inductive proof.

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 5]
```diff
@@ -51,4 +49,48 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+def connectedComponents.{v} : Cat.{v, u} ⥤ Type u where
+  obj C := ConnectedComponents C
+  map F :=
+    Quotient.lift (Quotient.mk (Zigzag.setoid _) ∘ F.obj)
+      (fun _ _ ↦ Quot.sound ∘ zigzag_obj_of_zigzag F)
+  map_id _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h ↦ by simp [<- h]; rfl)
+  map_comp _ _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h => by simp [<- h])
+
+
+private def fnToFctr  {X C} (fct : connectedComponents.obj C ⟶ X) : (C ⥤ typeToCat.obj X) where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:63]: This shouldn't be a private def, it should look something like this and be in a different file:

```lean
@[simps]
def ConnectedComponents.functorToDiscrete {X C : Type*} [Category C] (f : ConnectedComponents C → X) : 
    C ⥤ Discrete X where
  obj :=  Discrete.mk ∘ f ∘ Quotient.mk (Zigzag.setoid _)
  map :=  Discrete.eqToHom ∘ congrArg f ∘ Quotient.sound ∘ Zigzag.of_hom
```

In particular, it shouldn't mention `Cat` or the functors `connectedComponents` and `typeToCat`.

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 6]
```diff
@@ -51,4 +49,48 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+  obj :=  Discrete.mk ∘ fct ∘ Quotient.mk (Zigzag.setoid _)
+  map :=  Discrete.eqToHom ∘ congrArg fct ∘ Quotient.sound ∘ Zigzag.of_hom
+
+private def fctrToFn {X} {C : Cat} (fctr :C ⥤ typeToCat.obj X)  : (connectedComponents.obj C ⟶ X) :=
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:67]: Similarly to above, this belongs in a different file and shouldn't mention `Cat`, `connectedComponents` or `typeToCat`. Something like

```lean
def foo {X C : Type*} [Category C] (F : C ⥤ Discrete X) : 
    (ConnectedComponents C → X) :=
  Quotient.lift
    (fun c => (F.obj c).as)
    (fun _ _ h => eq_of_zigzag X (zigzag_obj_of_zigzag F h))
```

(with a proper name, of course). Then, you can define a more general `Equiv` which will then be then applied in the `homEquiv` field of the adjunction below.

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 7]
```diff
@@ -51,4 +49,48 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+        (Subsingleton.elim (fctr.map f) _).symm.heq) }
+  unit := { app:= fun C  ↦ fnToFctr (𝟙 _) }
+  counit :=  {
+      app := fun X => fctrToFn (𝟙 typeToCat.obj X)
+      naturality := fun _ _ _ =>
+        funext (fun xcc => by
+          obtain ⟨x,h⟩ := Quotient.exists_rep xcc
+          aesop_cat) }
+  homEquiv_unit := fun {C X h} => Functor.hext (fun _ => by rfl) (fun _ _ _ => by rfl)
+  homEquiv_counit := fun {C X G} => by funext cc;obtain ⟨_,_⟩ := Quotient.exists_rep cc; aesop_cat
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:93]:
```suggestion
  homEquiv_counit := fun {C X G} => by funext cc;obtain ⟨_,_⟩ := Quotient.exists_rep cc; aesop_cat
```

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean (hunk 5 above)
Comment (nrolland) [reply Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:63]: makes sense

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 8]
```diff
@@ -51,4 +49,42 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
           obtain rfl := Discrete.eq_of_hom f
           aesop_cat ) }
 
+
+/-- The connected components functor -/
+def connectedComponents.{v} : Cat.{v, u} ⥤ Type u where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:54]: The universe `v` should be declared at the top of the file and should not appear in the name of this declaration.

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 9]
```diff
@@ -51,4 +49,42 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+  obj C := ConnectedComponents C
+  map F :=
+    Quotient.lift (Quotient.mk (Zigzag.setoid _) ∘ F.obj)
+      (fun _ _ ↦ Quot.sound ∘ zigzag_obj_of_zigzag F)
+  map_id _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h ↦ by simp [<- h]; rfl)
+  map_comp _ _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h => by simp [<- h])
+
+
+/-- Functions from connected components and functors to discrete category are in bijection -/
+def connectedComponentsTypeToCatHomEquiv  (C : Cat) (X : Type u) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:64]: This should be stated without reference to `Cat`, similarly to its `toFun` and `invFun`.

File: Mathlib/CategoryTheory/IsConnected.lean [hunk 10]
```diff
@@ -331,6 +331,14 @@ theorem zigzag_obj_of_zigzag (F : J ⥤ K) {j₁ j₂ : J} (h : Zigzag j₁ j₂
     Zigzag (F.obj j₁) (F.obj j₂) :=
   h.lift _ fun _ _ => Or.imp (Nonempty.map fun f => F.map f) (Nonempty.map fun f => F.map f)
 
+/-- A zigzag in a discrete category entails an equality of its extremities -/
+lemma eq_of_zigzag (X) {a b : Discrete X} (h : Zigzag a b) : a.as = b.as := by
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/IsConnected.lean:335]: Could you prove the analogous lemma for `Zag` and use that in the proof of this?

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 11]
```diff
@@ -40,6 +40,18 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
 instance [Inhabited J] : Inhabited (ConnectedComponents J) :=
   ⟨Quotient.mk'' default⟩
 
+/-- Every function from connected components of a category gives a functor to discrete category -/
+def ConnectedComponents.connectedToDiscrete.{u_1, u_2} {X C : Type u_1} [Category.{u_2, u_1} C]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:44]: - I don't think `C` and `X` need to be in the same universe. You can use `Type*` and drop the universe annotation on the `Category` instance.
- The name doesn't really make sense. Maybe `ConnectedComponents.functorToDiscrete`?

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 12]
```diff
@@ -40,6 +40,18 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
...
+    (f : ConnectedComponents C -> X) : (C ⥤ Discrete X) where
+  obj :=  Discrete.mk ∘ f ∘ Quotient.mk (Zigzag.setoid _)
+  map :=  Discrete.eqToHom ∘ congrArg f ∘ Quotient.sound ∘ Zigzag.of_hom
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:47]:
```suggestion
    (f : ConnectedComponents C → X) : C ⥤ Discrete X where
  obj Y :=  Discrete.mk (f (Quotient.mk (Zigzag.setoid _) Y))
  map g := Discrete.eqToHom (congrArg f (Quotient.sound (Zigzag.of_hom g)))
```
- You generally see a lot more unicode arrows in mathlib instead of `->`, but I don't know if this is a strict rule.
- I think it's a bit clearer to see what a functor does to objects/morphisms if you use my suggested notation instead of `∘`.

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 13]
```diff
@@ -40,6 +40,18 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
...
+
+/-- Every functor to a discrete category gives a function from connected components -/
+def ConnectedComponents.discreteToConnected  {X C} [Category C] (fctr :C ⥤ Discrete X) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:50]: - Again, the name doesn't really make sense, something like `ConnectedComponents.discreteFunctorLift` would be better.
- `F` would be a better variable name than `fctr` for a functor. 
- The variable `C` and the category instance are already in scope, so you don't need to declare them again. In fact, `C` is never used throughout the file, so you might as well remove the variable line defining `C` and use `J` instead for the category, which is consistent with the rest of the file.

Comment (nrolland) [reply Mathlib/CategoryTheory/ConnectedComponents.lean:50]: so if the previous one was `functorToDiscrete`, as per the result type, this one should probably be `functionFromConnected`  ?

Comment (dagurtomas) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: Well, `functionFromConnected` could mean any function from the connected components. I think `discreteFunctorLift` (or something including `functor` and `lift`) is more descriptive because you're lifting a functor to a function on the connected components

Comment (nrolland) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: What about `toFunctorToDiscrete` and `fromFunctorToDiscrete` ?

Comment (nrolland) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: The following pairs would be consistent 

or `fromFunctiontoConnectedComponents` and `fromFunctorToDiscrete`

or `toFunctorToDiscrete` and `fromFunctorToDiscrete`

or `fromFunctiontoConnectedComponents  and `toFunctiontoConnectedComponents`

or `toFunctorToDiscrete ` and `toFunctiontoConnectedComponents `

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 14]
```diff
@@ -51,4 +49,42 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
...
+  obj C := ConnectedComponents C
+  map F :=
+    Quotient.lift (Quotient.mk (Zigzag.setoid _) ∘ F.obj)
+      (fun _ _ ↦ Quot.sound ∘ zigzag_obj_of_zigzag F)
+  map_id _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h ↦ by simp [<- h]; rfl)
+  map_comp _ _ := funext fun x ↦ (Quotient.exists_rep x).elim (fun _ h => by simp [<- h])
+
+
+/-- Functions from connected components and functors to discrete category are in bijection -/
+def connectedComponentsTypeToCatHomEquiv  (C) [Category C] (X : Type u) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:64]: This should be moved to the same file as its `toFun` and `invFun`

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 15]
```diff
@@ -40,6 +39,18 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
 instance [Inhabited J] : Inhabited (ConnectedComponents J) :=
   ⟨Quotient.mk'' default⟩
 
+/-- Every function from connected components of a category gives a functor to discrete category -/
+def ConnectedComponents.functorToDiscrete {X }
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:43]:
```suggestion
def ConnectedComponents.functorToDiscrete {X : Type*}
```

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 16]
```diff
@@ -40,6 +39,18 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
...
+    (f : ConnectedComponents J → X) : J ⥤ Discrete X where
+  obj Y :=  Discrete.mk (f (Quotient.mk (Zigzag.setoid _) Y))
+  map g := Discrete.eqToHom (congrArg f (Quotient.sound (Zigzag.of_hom g)))
+
+/-- Every functor to a discrete category gives a function from connected components -/
+def ConnectedComponents.functionFromConnectedComponents  {X} (F :J ⥤ Discrete X) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:49]:
```suggestion
def ConnectedComponents.liftFunctor  {X : Type*} (F : J ⥤ Discrete X) :
```
`ConnectedComponents` is already part of the name (in the namespace).

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 17]
```diff
@@ -143,4 +154,6 @@ instance : (decomposedTo J).IsEquivalence where
 def decomposedEquiv : Decomposed J ≌ J :=
   (decomposedTo J).asEquivalence
 
+
+
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:158]:
```suggestion
```

File: Mathlib/CategoryTheory/IsConnected.lean [hunk 18]
```diff
@@ -331,6 +331,17 @@ theorem zigzag_obj_of_zigzag (F : J ⥤ K) {j₁ j₂ : J} (h : Zigzag j₁ j₂
...
+/-- A Zag in a discrete category entails an equality of its extremities -/
+lemma eq_of_zag (X) {a b : Discrete X} (h : Zag a b) : a.as = b.as :=
+  h.elim (fun ⟨f⟩ ↦ Discrete.eq_of_hom f) (fun ⟨f⟩ ↦ (Discrete.eq_of_hom f).symm)
+
+/-- A zigzag in a discrete category entails an equality of its extremities -/
+lemma eq_of_zigzag (X) {a b : Discrete X} (h : Zigzag a b) : a.as = b.as := by
+  induction h with
+  | refl => rfl
+  | tail _ h eq  =>
+    exact eq.trans (eq_of_zag _ h)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/IsConnected.lean:343]:
```suggestion
  | tail _ h eq  => exact eq.trans (eq_of_zag _ h)
```

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean [hunk 19]
```diff
@@ -51,4 +49,42 @@ def typeToCatObjectsAdj : typeToCat ⊣ Cat.objects where
           obtain rfl := Discrete.eq_of_hom f
           aesop_cat ) }
 
+
+/-- The connected components functor -/
+def connectedComponents : Cat.{v, u} ⥤ Type u where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:54]:
```suggestion
/-- The connected components functor -/
def connectedComponents : Cat.{v, u} ⥤ Type u where
```

File: Mathlib/CategoryTheory/Category/Cat/Adjunction.lean (hunk 7 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Category/Cat/Adjunction.lean:88]: You should implement this suggestion, automation takes care of the field `homEquiv_unit` so it can be safely removed.

**Review by dagurtomas — COMMENTED** [review]
Just some minor comments, this is almost ready to go.

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 20]
```diff
@@ -143,4 +168,6 @@ instance : (decomposedTo J).IsEquivalence where
...
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:172]: There are two extra blank lines here that you need to remove (I think that was my suggestion which is marked as resolved here)

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 21]
```diff
@@ -40,6 +39,32 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
...
+/-- Every functor to a discrete category gives a function from connected components -/
+def ConnectedComponents.liftFunctor {X : Type*} (F :J ⥤ Discrete X) :
+    (ConnectedComponents J -> X) :=
+  Quotient.lift (fun c => (F.obj c).as)
+    (fun _ _ h => eq_of_zigzag X (zigzag_obj_of_zigzag F h))
+
+/-- Functions from connected components and functors to discrete category are in bijection -/
+def ConnectedComponents.typeToCatHomEquiv  (C) [Category C] (X : Type*) :
+    (ConnectedComponents C -> X) ≃ (C ⥤ Discrete X)   where
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:56]:
```suggestion
def ConnectedComponents.liftFunctor {X : Type*} (F :J ⥤ Discrete X) :
    (ConnectedComponents J → X) :=
  Quotient.lift (fun c => (F.obj c).as)
    (fun _ _ h => eq_of_zigzag X (zigzag_obj_of_zigzag F h))

/-- Functions from connected components and functors to discrete category are in bijection -/
def ConnectedComponents.typeToCatHomEquiv  (J) [Category J] (X : Type*) :
    (ConnectedComponents J → X) ≃ (J ⥤ Discrete X)   where
```

**Review by dagurtomas — APPROVED** [review]
Looks good, just two very minor things then it's good to go.

File: Mathlib/CategoryTheory/ConnectedComponents.lean [hunk 22]
```diff
@@ -40,6 +39,32 @@ def ConnectedComponents (J : Type u₁) [Category.{v₁} J] : Type u₁ :=
...
+  map g := Discrete.eqToHom (congrArg f (Quotient.sound (Zigzag.of_hom g)))
+
+/-- Every functor to a discrete category gives a function from connected components -/
+def ConnectedComponents.liftFunctor {X : Type*} (F :J ⥤ Discrete X) :
+    (ConnectedComponents J → X) :=
+  Quotient.lift (fun c => (F.obj c).as)
+    (fun _ _ h => eq_of_zigzag X (zigzag_obj_of_zigzag F h))
+
+/-- Functions from connected components and functors to discrete category are in bijection -/
+def ConnectedComponents.typeToCatHomEquiv   (X : Type*) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/ConnectedComponents.lean:55]:
```suggestion
def ConnectedComponents.typeToCatHomEquiv (X : Type*) :
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/ConnectedComponents.lean:55]: Also, I think you want `J` to be explicit here?

**Review by dagurtomas — APPROVED** [review]

File: Mathlib/CategoryTheory/ConnectedComponents.lean (hunk 22 above)
Comment (nrolland) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: how do you see that ?

Comment (dagurtomas) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: Because there is no way to infer it from other variables

Comment (nrolland) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: Or maybe implicit in what we have, explicit in what we need

Comment (dagurtomas) [reply Mathlib/CategoryTheory/ConnectedComponents.lean]: > It might make sense to be explicit elsewhere too

Not in the toFun and invFun, because there it can be inferred from the argument

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
